*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents


R1 v1 v2 1.02815650737k
R2 v3 v2 2.07414279923k
R3 v2 v5 3.06367122238k
R4 v5 GND 4.06922855851k
R5 v5 v6 3.03804085665k
R6 GND v7 2.05484565321k
R7 vaux v8 1.02936604691k
Vs v1 GND sin(0 1 1k 0 0 0)
vamp v7 vaux 0
hVc  v5 v8  vamp  8.1158893784k
gVc v6 v3 v2 v5 7.2545889117m

Cc v6 v8 1.02324790788uF
.ic v(v6) = 8.548005 v(v8) = 1.776357e-15


.control



*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3

hardcopy trans4.eps v(v6) v(v1)
echo trans_FIG


quit
.endc

.end
